US08222274B2
Bioorganic & Medicinal Chem. Lett., 14 (2004), 1295-1298, was used as a reference. A 1.00 g portion of ethyl 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate was dissolved in 15 ml of toluene, 0.26 ml of acetyl chloride was added thereto, and 3.6 ml of tin(IV) chloride (a 1 M dichloromethane solution) was added dropwise thereto at 0° C., followed by stirring at room temperature for 6 hours. After adjusting to pH 12 by adding 25 ml of a 1 M sodium hydroxide aqueous solution at 0° C., extraction was carried out with ethyl acetate, followed by washing with saturated brine. After drying with anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10-1:7-1:5) to obtain 668 mg of ethyl 5-acetyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate as a beige solid.

reactant | ethyl 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC | C20H26FNO2
reactant | acetyl chloride | 0.26 ml | C(C)(=O)Cl | C2H3ClO
reactant | tin(IV) chloride | 3.6 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 1 M | ClCCl | CH2Cl2
product | ethyl 5-acetyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | 668 mg | C(C)(=O)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC | C18H20FNO3
